US07208605B2
To a 5 mL reaction vial equipped with stir bar was added approximately 200 μL of 3-butyl-1-(butyl-4-sulfonyl)imidazolium trifluoromethanesulfonate (1.9 M). Added next via syringe was 1-octanol (60 μL, 0.38 mmol) followed by hexanoic acid (48 μL, 0.38 mmol). The resulting monophase was allowed to stir at room temperature for a period of 7 days at which time the oil was washed with toluene (5×2 mL). Shorter reaction times using higher reaction temperatures also afforded excellent conversion of acid to ester. Reaction of 1-octanol and acetic acid resulted in 89% conversion to n-octyl acetate at 40° C. for a period of 72 h whereas 83% conversion was observed at 40° C. for 48 h. The collected organic washes were concentrated in vacuo to afford 76 mg of n-octyl hexanoate. GC analysis of the crude product revealed only trace amounts of starting material in the organic washes. Purification of the crude colorless oil by bulb-to-bulb distillation afforded the desired compound in 72 mg (0.31 mmol, 82% yield) as a clear and colorless oil (bp 130° C./3 mm Hg (air bath temp)). 1H NMR (300 MHz, CDCl3); δ 4.04, J=6.6, 2H), 2.27 (t, J=7.4, 2H), 1.63–1.58 (m, 4H), 1.30–1.25 (m, 14H), 0.87–0.80 (m, 6H). 13C NMR (75.5 MHz, CDCl3); δ 174.10, 64.47, 34.42, 31.84, 31.39, 29.26, 28.72, 26.00, 24.78, 22.70, 22.38, 14.13, 13.96. IR (thin film) 2956, 2929, 2858, 1739, 1466, 1173 cm−1. GC ((HP-1 methyl siloxane; f=1.0 mL/min) 100° C. (2 min), 10° C./min, 275° C. (10 min)) 11.05 min.

reactant | 1-octanol | 0.38 mmol, 60 μL | C(CCCCCCC)O | C8H18O
reactant | hexanoic acid | 0.38 mmol, 48 μL | C(CCCCC)(=O)O | C6H12O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | n-octyl acetate | C(C)(=O)OCCCCCCCC | C10H20O2
